US07858646B2
Synthesis of 5-(4-(hydroxymethyl)phenylthio)picolinonitrile
Using the method of Preparation 155 using (4-mercaptophenyl)methanol (10.0 g, 71.3 mmol) and 5-bromopicolinonitrile (13.0 g, 71.3 mmol) affords the title compound (4.90 g, 28%).): 243 (M+H, 100%).

reactant | (4-mercaptophenyl)methanol | 71.3 mmol, 10.0 g | SC1=CC=C(C=C1)CO | C7H8OS
reactant | 5-bromopicolinonitrile | 71.3 mmol, 13.0 g | BrC=1C=CC(=NC1)C#N | C6H3BrN2
product | 5-(4-(hydroxymethyl)phenylthio)picolinonitrile | 4.90 g, 28% | OCC1=CC=C(C=C1)SC=1C=CC(=NC1)C#N | C13H10N2OS
